US05212169
(e) Preparation of N-[2-(8-chloro-10,11-dihydrodibenz[b,f][1,4]oxazepin-10-yl)-2-oxoethyl]-3-(ethylthio)propanamide
A solution of 3-(ethylthio)propanoyl chloride (0.87 grams) in methylene chloride (10 mL) was added dropwise to a stirred solution of 10-(aminoacetyl)-8- chloro-10,11-dihydrodibenz-[b,f][1,4]oxazepine (1.50 grams) and triethylamine (0.84 mL) in methylene chloride (40 mL) in an ice bath at 5° C. under nitrogen. The ice bath was removed, and the reaction was stirred for 3 hours. The reaction was diluted with methylene chloride (50 mL) and washed with 50 mL each of 1N HCl, saturated aqueous sodium bicarbonate, and brine. The solution was then dried over MgSO4 and evaporated in vacuo. The yield of the title compound was 1.90 grams (90%). Mp: 148°-151° C.

reactant | 3-(ethylthio)propanoyl chloride | 0.87 grams | C(C)SCCC(=O)Cl | C5H9ClOS
reactant | 10-(aminoacetyl)-8- chloro-10,11-dihydrodibenz-[b,f][1,4]oxazepine | 1.50 grams | NCC(=O)N1C2=C(OC3=C(C1)C=CC=C3)C=CC(=C2)Cl | C15H13ClN2O2
reactant | triethylamine | 0.84 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | N-[2-(8-chloro-10,11-dihydrodibenz[b,f][1,4]oxazepin-10-yl)-2-oxoethyl]-3-(ethylthio)propanamide | ClC1=CC2=C(OC3=C(CN2C(CNC(CCSCC)=O)=O)C=CC=C3)C=C1 | C20H21ClN2O3S
